US04248788
EXAMPLE 6: 5-hydroxy-8-methyl-1,4-benzodioxane (VIIn) Code number: 760 844
A solution of 14.7 g (0.05 mole) of 5-benzyloxy-8-hydroxymethyl-1,4-benzodioxane (XIp) code number 760 701, crude, non-crystallized, in 300 ml of absolute alcohol was hydrogenolysed at room pressure and temperature, in the presence of 3 g of palladium on 5% charcoal. Once the absorption of hydrogen was completed, the catalyst was filtered and the solvent was evaporated. A liquid was obtained.

reactant | 5-benzyloxy-8-hydroxymethyl-1,4-benzodioxane | 0.05 mole, 14.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=2OCCOC21)CO | C16H16O4
reactant | charcoal | C | CH4
catalyst | palladium | 3 g | [Pd] | Pd
product | 5-hydroxy-8-methyl-1,4-benzodioxane | OC1=CC=C(C=2OCCOC21)C | C9H10O3
